Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins / Vancomycin / Codeine
 
Attending: ___
 
Chief Complaint:
buttock pain/bladder spasm
 
Major Surgical or Invasive Procedure:
Left buttock skin abscess I&D ___

 
History of Present Illness:
___ with PMHx cervical CA s/p hysterectomy, XRT, radiation 
cystitis with chronic indwelling foley with recurrent UTIs now 
s/p Rt nephrectomy, radiation enteritis s/p 
colectomy/end-ileostomy and short gut syndrome now on chronic 
TPN, chronic pain presents with Lt gluteal abscess.  
 Patient noticed pain over Lt buttock since ___, has been 
worsening. No fevers/chills. Saw PCP today who thought likely 
infected and referred to ED. She also has chronic indwelling 
Foley and feels she has UTI given significant burning and 
abdominal pain c/w prior UTIs. No flank pain.  
 
 In the ED, initial vitals were:  
 - Exam notable for: RRR with II/VI systolic murmur at LUSB  
 abdomen benign with ileostomy in place, opaque so unable to 
visualize stoma, no CVAT, large indurated fluctuant erythematous 
tender area over L buttock, foley in place with clear urine  
 I&D of L buttock abscess: mucousy sanguinous drainage, packing 
in place. Foley exchanged in ED.  
 - Labs notable for: WBC 10.5 (88.5% PMN), H/H 9.5/28.2% (above 
recent baseline ___, Na 127, Cr 1.0 (at baseline), CO2 20, UNa 
44, UOsm 206, U/A ___, +Nit, 32 WBC, 0 Epi, few bact, Mod Bld, 
7 RBC, Lactate 1.4  
 - Imaging: Left Hip/Pelvis XR: No acute fracture or dislocation 
seen  
 - IV Vanc 1gm, IV CTX 1gm, IV fentanyl 100mcg, PO Oxycodone 
10mg, 1L NS was given.  
 Upon arrival to the floor, patient reports she has been having 
fevers (highest 99.9) and chills all week with burning on 
urination. She has bladder spasms since her Foley was changed in 
ED.  
 Denies cough, SOB, DOE, chest pain, abd pain, N/V/D, black or 
bloody stools, falls.  

 
Past Medical History:
1. Cervical CA s/p TAH BSO (___), XRT with recurrence in ___  
2. Radiation cystitis & urinary Retention - currently with  
chronic indwelling foley  
4. R ureteral stricture  
----> c/b recurrent infections  
----> s/p right nephrectomy (___)  
5. Recurrent UTIs:  
----> Klebsiella (amp resistant)  
----> Enterococcus (Levo resistant)
----> Serratia (Nitro resistant)
----> Alpha Hemolytic Strep
----> ___
----> Psudomonas (pansensitive, ___
6. Radiation enteritis s/p colostomy (___) with resultant short 
gut syndrome  
----> TPN x ___ years via indwelling central line (___)  
----> Multiple prior ___ line / ___ infections  
7. Osteoporosis  
8. Hypothyroidism  
9. Migraine HA  
10. Depression  
11. Fibromyalgia  
12. Chronic abdominal pain syndrome  
13. DVT / thrombophlebitis from indwelling central access  
14. Lumbar radiculopathy  
15. SBO followed by surgery  
___. STEMI ___ Takotsubo CMP (clean coronaries on cath ___  
17. Hyponatremia: previously attributed to HCTZ use  
19. Suspected TRALI ___  
20. Chronic pain from back/neck osteoarthritis  
21. Hx hip fracture  

 
Social History:
___
Family History:
Per OMR:
- Mother: brain cancer
- Father: EtOH abuse, CAD  
- 2 brothers with CAD, one with renal cell ca 
- 3 children, all healthy 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITAL SIGNS - 98.4 164/82 80 18 97% RA  
 GENERAL - ___ woman, uncomfortable, laying in bed  
 HEENT - anicteric, PERRL, EOMI, MOM, OP clear  
 NECK - supple, no LAD, no elevated JVD  
 CARDIAC - RRR, normal S1S2, no M/R/G  
 CHEST - Lt ___ c/d/I, no tenderness, erythema, warmth  
 LUNGS - NLB on RA, CTAB  
 ABDOMEN - soft, NT, ND, right sided ileostomy non-tender, NABS  

 GU - no CVAT, foley draining clear yellow urine (in tube)  
 EXTREMITIES - WWP, LLE chronically plantar flexed, b/l 
sensation intact  
 NEUROLOGIC - A&O, face symmetric, SILT, MAE, RLE dorsiflexion 
impaired, gait not assessed  
 SKIN - warm, dry, pink, left gluteal abscess site dressed and 
packed with serosanguenous drainage  
 

DISCHARGE PYHSICAL EXAM
=======================
VITALS:  97.8  170/70  80  20  98Ra 
GENERAL - ___ woman, uncomfortable, lying in bed    
CARDIAC - RRR, normal S1S2, no M/R/G   
LUNGS - NLB on RA, CTAB  
ABDOMEN - soft, NT, ND, right sided ileostomy non-tender, NABS  
GU - no CVAT, foley draining clear yellow urine  
EXTREMITIES - WWP, LLE chronically plantar flexed, b/l sensation 
intact  
SKIN - warm, dry, pink, left gluteal abscess approx. 3cm 
incision, wound packed with gauze tape, some bleeding with 
removal of tape, no frank purulence. Mild surrounding erythema 
and induration.

 
Pertinent Results:
ADMISSION LABS
==============
___ 05:10PM BLOOD WBC-10.5* RBC-3.41* Hgb-9.5*# Hct-28.2* 
MCV-83 MCH-27.9 MCHC-33.7# RDW-16.3* RDWSD-49.4* Plt ___
___ 05:10PM BLOOD Neuts-88.8* Lymphs-5.8* Monos-3.4* 
Eos-1.1 Baso-0.3 Im ___ AbsNeut-9.28* AbsLymp-0.61* 
AbsMono-0.36 AbsEos-0.11 AbsBaso-0.03
___ 05:10PM BLOOD Glucose-98 UreaN-21* Creat-1.0 Na-127* 
K-4.6 Cl-93* HCO3-20* AnGap-19
___ 05:10PM BLOOD Iron-27*
___ 05:10PM BLOOD calTIBC-322 Ferritn-172* TRF-248
___ 05:10PM BLOOD 25VitD-34
___ 05:24PM BLOOD Lactate-1.4
___ 04:48PM URINE Color-Straw Appear-Hazy Sp ___
___ 04:48PM URINE Blood-MOD Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 04:48PM URINE RBC-7* WBC-32* Bacteri-FEW Yeast-NONE 
Epi-0
___ 04:48PM URINE AmorphX-RARE
___ 04:48PM URINE Mucous-RARE
___ 04:48PM URINE Hours-RANDOM Na-44
___ 04:48PM URINE Osmolal-206

DISCHARGE LABS
==============
___ 04:34AM BLOOD WBC-5.6 RBC-3.26* Hgb-8.8* Hct-27.7* 
MCV-85 MCH-27.0 MCHC-31.8* RDW-15.9* RDWSD-50.2* Plt ___
___ 04:34AM BLOOD Glucose-99 UreaN-20 Creat-0.9 Na-132* 
K-3.8 Cl-99 HCO3-22 AnGap-15
___ 04:34AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.4

REPORTS
=======
Hip XR ___
IMPRESSION:  
No acute fracture or dislocation seen.  Stable chronic 
appearance of the left superior and inferior pubic rami.  
Diffuse osteopenia. 

MICROBIOLOGY
============
___ 4:48 pm URINE      Source: Unknown. 
   URINE CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      ID AND SUSCEPTIBILITES REQUESTED BY ___. ___ (___) 
ON ___. 
      GRAM NEGATIVE ROD(S).    >100,000 CFU/mL. 
      GRAM NEGATIVE ROD #2.    10,000-100,000 CFU/mL. 

___ Blood cultures x2 NGTD

 
Brief Hospital Course:
___ with PMHx cervical CA s/p hysterectomy, XRT, radiation 
cystitis with chronic indwelling foley with recurrent UTIs now 
s/p Rt nephrectomy, radiation enteritis s/p 
colectomy/end-ileostomy and short gut syndrome now on chronic 
TPN, chronic pain presents with Lt gluteal abscess.  

# Left buttock abscess  
S/P I&D and packing in ED, no evidence of surrounding cellulitis 
or systemic illness. No evidence of undrained abscess. Wound 
packing and dressing were changed daily. There was minimal blood 
and no purulence from the wound. Skin was healing well and pain 
improving at the time of discharge. 
  
# UTI  
# Radiation cystitis & urinary Retention - Chronic indwelling 
foley. History of resistant Enterobacter, most recent Urine 
culture ___ with CTX sensitive Klebsiella, MSSA and 
vancomycin sensitive, amp resistant enterococcus. She was 
treated with vancomycin and ceftriaxone initially, but with 
clinical improvement and polymicrobial urine culture consistent 
with multiple GNR colonies, vancomycin was discontinued and she 
was discharged on ceftriaxone with a plan to complete a 1 week 
course.   
 
# Hyponatremia, mild, asymptomatic  
Likely due to decreased PO intake. Mild and stable.

Chronic Issues  
# Continue home ASA  
 
# Lumbar radiculopathy  
- Continued home Lidocaine 5% Patch 1 PTCH TD QAM  
- Continued home Pregabalin 150 mg PO BID  

# HTN  
- Continued home Lisinopril 10 mg QD  

# Depression: Continued home FLUoxetine 40 mg PO QD, alprazolam 
0.5 mg PO QHS:PRN insomnia/anxiety  

# Hypothyroidism: last TSH ___ 8.0 
- Continued home Levothyroxine 50mcg QD   

Core Measures  
# FEN: TPN, regular diet  
# PPX: Subcutaneous heparin, Senna/Colace, analgesics prn  
# ACCESS: PIVs  
# CODE: Full code  
# CONTACT: HCP/husband ___ ___ (home), 
___ (cell)  
# DISPO: Medicine, pending above  

TRANSITIONAL ISSUES:
#Her foley catheter was changed in the emergency room. 
#Urine gram stain shows multiple GNRs with one colony>100k not 
yet speciated. Pt improved with CTX, so we felt comfortable 
continuing this at home. Please follow up urine culture for 
possible resistence
#TPN was continued in house, no changes were made to her home 
regimen
#Her wound is packed with iodoform and covered with dry gauze. 
___ will change packing and dressing daily. Please re-assess 
wound and ongoing wound care needs. 
#Obtain repeat TSH as outpatient 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH 
3. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
4. FLUoxetine 40 mg PO DAILY 
5. Ethanol 70% Catheter DWELL (Tunneled Access Line) 2 mL DWELL 
DAILY 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Lidocaine 5% Patch 1 PTCH TD QAM 
8. Lisinopril 10 mg PO DAILY 
9. Miconazole Powder 2% 1 Appl TP QID:PRN fungal rash 
10. Omeprazole 20 mg PO DAILY 
11. Oxybutynin 5 mg PO DAILY:PRN bladder spasm 
12. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
13. Pregabalin 150 mg PO BID 
14. ALPRAZolam 0.5 mg PO QHS:PRN insomnia/anxiety 
15. Vivelle-Dot (estradiol) 0.05 mg/24 hr transdermal 1X/WEEK 
16. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush 
17. Sarna Lotion 1 Appl TP TID:PRN rash 
18. Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush 
19. Aspirin 81 mg PO DAILY 
20. diclofenac sodium 1 % topical BID:PRN 
21. Acetaminophen-Caff-Butalbital 1 TAB PO Q6H:PRN Headache 
22. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 

 
Discharge Medications:
1.  CefTRIAXone 1 gm IV Q24H 
RX *ceftriaxone in dextrose,iso-os 1 gram/50 mL 1 g IV once a 
day Disp #*3 Intravenous Bag Refills:*0 
2.  FLUoxetine 40 mg PO DAILY  
3.  Acetaminophen-Caff-Butalbital 1 TAB PO Q6H:PRN Headache  
4.  Acetaminophen 1000 mg PO Q8H  
5.  ALPRAZolam 0.5 mg PO QHS:PRN insomnia/anxiety  
6.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
7.  Aspirin 81 mg PO DAILY  
8.  Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH  
9.  diclofenac sodium 1 percent topical BID:PRN pain  
10.  Ethanol 70% Catheter DWELL (Tunneled Access Line) 2 mL 
DWELL DAILY 
RX *ethanol (ethyl alcohol) 98 % 2 mL Tunneled line dwell once a 
day Disp #*30 Ampule Refills:*0 
11.  Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush  
12.  Levothyroxine Sodium 50 mcg PO DAILY  
13.  Lidocaine 5% Patch 1 PTCH TD QAM  
14.  Lisinopril 10 mg PO DAILY  
15.  Miconazole Powder 2% 1 Appl TP QID:PRN fungal rash  
16.  Omeprazole 20 mg PO DAILY  
17.  Oxybutynin 5 mg PO DAILY:PRN bladder spasm  
18.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate  
19.  Pregabalin 150 mg PO BID  
20.  Sarna Lotion 1 Appl TP TID:PRN rash  
21.  Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush  
22.  Vitamin D ___ UNIT PO 1X/WEEK (MO)  
23.  Vivelle-Dot (estradiol) 0.05 mg/24 hr transdermal 1X/WEEK 
(___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Skin abscess
UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because of an abscess on your buttock 
and symptoms of a UTI. Your abscess was drained in the ER and 
you were given antibiotics for your UTI, which improved your 
symptoms. We continued your TPN. You are going home on IV 
antibiotics for your UTI for 3 more days. Your home infusion 
company will arrange for the antibiotics. Your visiting nurse 
___ come daily to change your dressing until you follow up with 
your PCP. 

Best wishes,
Your ___ Care Team
 
Followup Instructions:
___